US05262390
By the method of Example 3, Step A, 23.15 g (0.147 mole) of 3-fluoro-4-nitrophenol and 29.92 g (0.175 mole) of 2-iodopropane were reacted in the presence of 20.73 g (0.150 mole) of anhydrous potassium carbonate in 450 mL of acetone, yielding 28.0 g of 4-isopropoxy-2-fluoronitrobenzene as an oil. The NMR was consistent with the proposed structure.

reactant | 3-fluoro-4-nitrophenol | 0.147 mole, 23.15 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | 2-iodopropane | 0.175 mole, 29.92 g | IC(C)C | C3H7I
reactant | potassium carbonate | 0.150 mole, 20.73 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 450 mL | CC(=O)C | C3H6O
product | 4-isopropoxy-2-fluoronitrobenzene | 28.0 g | C(C)(C)OC1=CC(=C(C=C1)[N+](=O)[O-])F | C9H10FNO3
